US04920110
4.7 g of propargyl alcohol was dissolved in 50 ml of absolute pyridine. At 0° C. at most, 18.4 g of 3-(2,3-dichlorothiophen-4-yl)-propenoyl chloride was added and the reaction batch was stirred for 12 hours at room temperature. 50 ml of diethyl ether was added, the precipitated pyridine hydrochloride was filtered off and the filtrate concentrated under reduced pressure. The residue was taken up in 150 ml of ethyl acetate, the mixture was shaken with water and the organic phase was dried over Na2SO4. After removal of the solvent under reduced pressure, the residue was recrystallized from methanol. There was obtained 7.6 g of propargyl 3-(2,3-dichlorothiophen-4-yl)-propenoate of melting point 84° to 86° C.

reactant | propargyl alcohol | 4.7 g | C(C#C)O | C3H4O
reactant | 3-(2,3-dichlorothiophen-4-yl)-propenoyl chloride | 18.4 g | ClC=1SC=C(C1Cl)C=CC(=O)Cl | C7H3Cl3OS
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | propargyl 3-(2,3-dichlorothiophen-4-yl)-propenoate | 7.6 g | ClC=1SC=C(C1Cl)C=CC(=O)OCC#C | C10H6Cl2O2S
